US04792567
Under a nitrogen atmosphere 13.7 mL of a 2.6M solution of n-butyllithium in n-hexane was added to a cold (-78° C.) stirred solution of 5.2 grams (0.0325 mole) of 2-phenylthiophene in 61 mL of tetrahydrofuran. This mixture was stirred at -78° C. for 1.5 hours. To this cold mixture was added 2-phenylpropionaldehyde (4.6 gram, 0.0336 mole), and the mixture was stirred for 15 minutes. The mixture was allowed to warm to room temperature and stir for two days. The mixture was cooled to 0° C., and approximately 45 mL of 1.2 N hydrochloric acid was added. The organic phase was separated from the aqueous phase and the aqueous phase, was extracted with chloroform. The chloroform extract was combined with the organic phase and washed with an aqueous, ammonium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with ethyl acetate:n-hexane (10:90), to yield 9.2 g of 2-phenyl-1-(5-phenylthien-2-yl)-1-propanol as an oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-phenylthiophene | 0.0325 mole, 5.2 grams | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | 2-phenylpropionaldehyde | 0.0336 mole, 4.6 gram | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | hydrochloric acid | 1.2 N, approximately 45 mL | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 61 mL | O1CCCC1 | C4H8O
product | 2-phenyl-1-(5-phenylthien-2-yl)-1-propanol | 9.2 g | C1(=CC=CC=C1)C(C(O)C=1SC(=CC1)C1=CC=CC=C1)C | C19H18OS
